US08957203B2
Preparation of 1-fluoro-4-(2-methoxyethoxy)isoquinoline
To a solution of 1-chloro-4-(2-methoxyethoxy)isoquinoline (368 mg, 1.548 mmol) in DMSO (7 mL) was added CsF (470 mg, 3.10 mmol) and heated to 140° C. for 2 hrs. LC/MS showed the desired product. The reaction was diluted with Ethylacteate and washed with water, and brine. The organic phase was collected, dried over sodium sulfate, and concentrated under vacuum to give the crude product which was purified by silica gel chromatography using a gradient of 5-25% EtOAc/Hexanes. The product fractions were collected and the solvent removed under vacuum to give it the desired product 1-fluoro-4-(2-methoxyethoxy)isoquinoline (241 mg, 70.4% yield) as a white solid. MS: MS m/z 222.15 (M++1).

reactant | 1-chloro-4-(2-methoxyethoxy)isoquinoline | 1.548 mmol, 368 mg | ClC1=NC=C(C2=CC=CC=C12)OCCOC | C12H12ClNO2
reactant | CsF | 3.10 mmol, 470 mg | [F-].[Cs+]
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | 1-fluoro-4-(2-methoxyethoxy)isoquinoline | FC1=NC=C(C2=CC=CC=C12)OCCOC | C12H12FNO2
